US09278931B2
B) tert-butyl{trans-2-[4-({[3-(2-oxopiperidin-1-yl)phenyl]carbonyl}amino)phenyl]cyclopropyl}carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate (230 mg) described in a document (J. Am. Chem. Soc., 2010, 132, 6827.) in acetonitrile (7 mL) were added 3-(2-oxopiperidin-1-yl)benzoic acid (169 mg), N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (177 mg), 1-hydroxybenzotriazole (125 mg) and triethylamine (128 μL). The mixture was stirred at room temperature overnight and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (53.4 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate | 230 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C14H20N2O2
reactant | 3-(2-oxopiperidin-1-yl)benzoic acid | 169 mg | O=C1N(CCCC1)C=1C=C(C(=O)O)C=CC1 | C12H13NO3
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 177 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 125 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | triethylamine | 128 μL | C(C)N(CC)CC | C6H15N
product | tert-butyl{trans-2-[4-({[3-(2-oxopiperidin-1-yl)phenyl]carbonyl}amino)phenyl]cyclopropyl}carbamate | 53.4 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC(=CC=C1)N1C(CCCC1)=O)=O | C26H31N3O4
